US09422281B2
Trifluoroacetic acid (0.5 mL, 6.49 mmol) was added to a solution of 1-((2S)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-3-yl)-3,4-dihydroquinoxaline-1(2H)-yl)ethanone (0.048 g, 0.097 mmol) in dichloromethane (2.0 mL) and the mixture stirred at rt for 4 h. The reaction mixture was concentrated and the residue was partitioned between dichloromethane and saturated aqueous sodium bicarbonate solution. The organic phase was separated, dried over anhydrous sodium sulfate, filtered, and concentrated to afford (S)-1-(6-(1-cyclopropyl-1H-pyrazol-4-yl)-4-(1H-indazol-3-yl)-2-methyl-3,4-dihydroquinoxalin-1(2H)-yl)ethanone (0.039 g, 98%) as a tan solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.76-1.04 (m, 4 H), 1.09-1.33 (m, 3 H), 2.23 (s, 3 H), 3.54-3.77 (m, 2 H), 3.78-3.99 (m, 1 H), 4.36 (br s, 1 H), 6.67-6.85 (m, 1 H), 6.87-7.14 (m, 2 H), 7.26-7.46 (m, 4 H), 7.53 (d, J=8.50 Hz, 1 H), 7.87 (s, 1 H), 12.70-12.87 (m, 1 H). MS (ESI, pos. ion) m/z 413 [M+H]+.

reactant | Trifluoroacetic acid | 6.49 mmol, 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-((2S)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-3-yl)-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | 0.097 mmol, 0.048 g | C1(CC1)N1N=CC(=C1)C=1C=C2N(C[C@@H](N(C2=CC1)C(C)=O)C)C1=NN(C2=CC=CC=C12)C1OCCCC1 | C29H32N6O2
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | (S)-1-(6-(1-cyclopropyl-1H-pyrazol-4-yl)-4-(1H-indazol-3-yl)-2-methyl-3,4-dihydroquinoxalin-1(2H)-yl)ethanone | 0.039 g, 98% | C1(CC1)N1N=CC(=C1)C=1C=C2N(C[C@@H](N(C2=CC1)C(C)=O)C)C1=NNC2=CC=CC=C12 | C24H24N6O
